US07202245B2
4-Isopropylamino-8-methyl-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one
A solution of 8-hydroxymethyl-4-isopropylamino-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one (20 mg) in EtOH (15 mL) was treated 10% Pd/C (10 mg), and the mixture was agitated under 45 psi hydrogen atmosphere for 68 hrs. The reaction mixture was filtered through diatomaceous earth, the filtrate concentrated, and the residue purified by silica gel chromatography to provide the title compound as a solid. MS (M+H)+=258.0.

reactant | 8-hydroxymethyl-4-isopropylamino-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one | 20 mg | OCC1=CC=C2N=C(C=3N(C2=C1)C(NN3)=O)NC(C)C | C13H15N5O2
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 15 mL | CCO | C2H6O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | 4-Isopropylamino-8-methyl-2H-[1,2,4]triazolo[4,3-a]quinoxalin-1-one | C(C)(C)NC=1C=2N(C3=CC(=CC=C3N1)C)C(NN2)=O | C13H15N5O
